US05208383
In the BF3 absorption tank, the isobutyryl fluoride solution absorbed BF3 contained in gas released from the acylation reactor, and no BF3 was detected in the analysis of gas purged from the BF3 absorption tank. In the complex preparation tank, the isobutyryl fluoride synthesis solution from the BF3 absorption tank further absorbed BF3 recovered from the distillation column, and in the acylation reactor, the resultant isobutyryl fluoride synthesis solution reacted with 2-methylnaphthalene to give 2-isobutyryl-6-methylnaphthalene.

reactant | isobutyryl fluoride | C(C(C)C)(=O)F | C4H7FO
reactant | 2-methylnaphthalene | CC1=CC2=CC=CC=C2C=C1 | C11H10
product | 2-isobutyryl-6-methylnaphthalene | C(C(C)C)(=O)C1=CC2=CC=C(C=C2C=C1)C | C15H16O
